US08895313B2
3-Trifluoromethyl-N-[4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-4-(methoxy)benzamide
Prepared as described in the Amide Coupling section using 2-(4-aminophenyl)-6-methoxybenzothiazole (0.5 g, 1.95 mmol) and 4-methoxy-3-trifluoromethylbenzoyl chloride (0.47 g, 1.95 mmol) in dry pyridine (15 ml) to give the title compound (0.77 g, 87%) as pale yellow feathery crystals after work-up and recrystallisation from acetic acid.

reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 1.95 mmol, 0.5 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | 4-methoxy-3-trifluoromethylbenzoyl chloride | 1.95 mmol, 0.47 g | COC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C9H6ClF3O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-Trifluoromethyl-N-[4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-4-(methoxy)benzamide | 0.77 g, 87% | FC(C=1C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=CC1OC)(F)F | C23H17F3N2O3S
